US07371750B2
To the suspension of NaH (60% dispersion in mineral oil, 139 mg, 3.5 mmol) in DMF is added 7-methanesulfonyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (1.15 g, 3.2 mmol), prepared as in Reference 1, at 0° C. When H2 evolution has ceased, iodomethane (0.99 ml, 15.8 mmol) is added and the reaction mixture is stirred for 3 hours at room temperature. The mixture is diluted with ethyl acetate, and washed with 5% aqueous Na2S2O3 solution to remove DMF. The organic layer is dried over MgSO4 and concentrated under reduced pressure. The crude product is purified by flash column chromatography (SiO2, EtOAc/hexane=1/1) to give 7-methanesulfonyl-1-methyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one (0.85 g, 70%) as a white solid.

reactant | NaH | 3.5 mmol, 139 mg | [H-].[Na+]
reactant | 7-methanesulfonyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 3.2 mmol, 1.15 g | CS(=O)(=O)C1=NC=C2C(=N1)NC(N(C2)C2=C(C=CC(=C2)[N+](=O)[O-])C)=O | C14H13N5O5S
reactant | iodomethane | 15.8 mmol, 0.99 ml | IC | CH3I
solvent | DMF | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 7-methanesulfonyl-1-methyl-3-(2-methyl-5-nitro-phenyl)-3,4-dihydro-1H-pyrimido[4,5-d]pyrimidin-2-one | 0.85 g, 70% | CS(=O)(=O)C1=NC=C2C(=N1)N(C(N(C2)C2=C(C=CC(=C2)[N+](=O)[O-])C)=O)C | C15H15N5O5S
